US03932430
Step A: 2-p-Toluoylindan-1-one.
To a suspension of 7.8 g. of sodium amide in 100 ml. anhydrous ether under an atmosphere of nitrogen is added 13.2 g. of indan-1-one. Ammonia is evolved and the mixture is stirred and heated under reflux until evolution ceases, after about 1 hour. A solution of 21.2 g. of phenyl p-toluate in 250 ml. of ether is then added dropwise over a period of 15 min. and the resulting mixture is heated under reflux for 11/2 hr. It is then cooled and poured onto 500 g. of ice, and then made slightly acidic by the addition of 2N hydrochloric acid. The organic layer is separated and washed twice with a 10% solution of sodium bicarbonate and once with water. It is then shaken with a saturated aqueous solution of cupric acetate, and the 2-phase system is stirred vigorously overnight. The resulting brown solid produced is filtered off and added to a stirred mixture of 250 ml. of ether and 100 ml of 2N hydrochloric acid. After 1 hr. the ether layer is separated, washed with sodium bicarbonate solution and water and dried over sodium sulfate. Removal of the ether gives a crude crystalline residue which can be recrystallized from ether to give the title product (m.p. 103°-105°).

reactant | sodium amide | [NH2-].[Na+]
reactant | indan-1-one | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | Ammonia | N | H3N
reactant | phenyl p-toluate | C1(=CC=C(C=C1)C(=O)OC1=CC=CC=C1)C | C14H12O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-p-Toluoylindan-1-one | C1(=CC=C(C=C1)C(=O)C1C(C2=CC=CC=C2C1)=O)C | C17H14O2
